US07465795B2
4-amino-7-chloro-8-phenyl-N-propyl-cinnoline-3-carboxamide
Using Method F, 4-amino-7-chloro-8-iodo-N-propyl-cinnoline-3-carboxamide (184 mg, 0.47 mmol) and phenylboronic acid (229 mg, 1.89 mmol) were reacted (refluxed 40 hours) to afford the title compound (90 mg, 56% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.49 (bs, 1H), 7.82 (d, J=9.0 Hz, 1H), 7.75 (d, J=9.0 Hz, 1H), 7.42-7.55 (m, 5H), 3.43 (apparent q, J=6.6 Hz, 2H), 1.63 (apparent sextet, J=7.2 Hz, 2H), 0.98 (t, J=7.4 Hz, 3H). MS APCI, m/z=341 (M+H) HPLC 2.04 min.

reactant | 4-amino-7-chloro-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.47 mmol, 184 mg | NC1=C(N=NC2=C(C(=CC=C12)Cl)I)C(=O)NCCC | C12H12ClIN4O
reactant | phenylboronic acid | 1.89 mmol, 229 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 4-amino-7-chloro-8-phenyl-N-propyl-cinnoline-3-carboxamide | 90 mg, 56% yield | NC1=C(N=NC2=C(C(=CC=C12)Cl)C1=CC=CC=C1)C(=O)NCCC | C18H17ClN4O
